US04642316
Phenytoin Sodium/Choline Buffer (1:1) Solutions
To 1.25 g (4.6 mmol) phenytoin sodium was added 6 ml (5 mmol) choline buffer and diluted with water to 25 ml. The solids were dissolved with stirring or sonication to give a clear solution of pH 12.4.

reactant | phenytoin sodium | 4.6 mmol, 1.25 g | C=1C=CC(=CC1)C2(C(=O)N=C(N2)[O-])C=3C=CC=CC3.[Na+]
reactant | choline | 5 mmol, 6 ml | OCC[N+](C)(C)C
solvent | water | O | H2O
product | Phenytoin Sodium Choline | C=1C=CC(=CC1)C2(C(=O)N=C(N2)[O-])C=3C=CC=CC3.[Na+].OCC[N+](C)(C)C | InChI=1S/C15H12N2O2.C5H14NO.Na/c18-13-15(17-14(19)16-13,11-7-3-1-4-8-11)12-9-5-2-6-10-12;1-6(2,3)4-5-7;/h1-10H,(H2,16,17,18,19);7H,4-5H2,1-3H3;/q;2*+1/p-1
